US08754079B2
XXXVI.1. 2-(Cyclopent-3-enyloxy)-4-fluoro-1-nitro-benzene
Prepared analogously to XVI.1 from 1 g cyclopentenol, 1.57 g 5-fluoro-2-nitro-phenol and 1.89 ml DEAD.

reactant | cyclopentenol | 1 g | C1(=CCCC1)O | C5H8O
reactant | 5-fluoro-2-nitro-phenol | 1.57 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | DEAD | 1.89 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 2-(Cyclopent-3-enyloxy)-4-fluoro-1-nitro-benzene | C1(CC=CC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C11H10FNO3
